US07176242B2
3-Bromo-5-{[butyl(methyl)amino]methyl}-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}benzamide dihydrochloride
Methyl 3-bromo-5-{[butyl(methyl)amino]methyl}benzoate prepared by the method in EXAMPLE SP-190, Step 1 (170 mg, 0.54) is dissolved in 2:1:1 tetrahydrofuran/methanol/water (4 mL), and lithium hydroxide monohydrate is added (45 mg, 1.1 mmol), and the reaction stirred 16 h. The solution is concentrated under reduced pressure. The residue is redissolved in DMF (5 mL), and diisopropylethylamine (375 μL, 2.16 mmol), HATU (256 mg, 0.68 mmol), and (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride prepared by the method in EXAMPLE SP-272 (265 mg, 0.65 mmol) are added. The reaction stirred at room temperature 1 h. The reaction mixture is diluted with methylene chloride, washed with water, and saturated sodium bicarbonate, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 8% methanol/methylene chloride) provides the title compound as the free base. The residue is dissolved in diethyl ether (3 mL) and 1N hydrochloric acid in diethyl ether (1 mL) is added. The mixture is concentrated under reduced pressure to yield the title compound. ESI MS m/z 616.2 [M+H]+.

reactant | Methyl 3-bromo-5-{[butyl(methyl)amino]methyl}benzoate | BrC=1C=C(C(=O)OC)C=C(C1)CN(C)CCCC | C14H20BrNO2
reactant | diisopropylethylamine | 2.16 mmol, 375 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.68 mmol, 256 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
solvent | tetrahydrofuran methanol water | 4 mL | O1CCCC1.CO.O
solvent | lithium hydroxide monohydrate | O.[OH-].[Li+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Bromo-5-{[butyl(methyl)amino]methyl}-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}benzamide dihydrochloride | Cl.Cl.BrC=1C=C(C(=O)N[C@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F)C=C(C1)CN(C)CCCC | InChI=1S/C32H40BrF2N3O2.2ClH/c1-4-6-10-38(3)21-25-12-26(17-27(33)13-25)32(40)37-30(16-24-14-28(34)18-29(35)15-24)31(39)20-36-19-23-9-7-8-22(5-2)11-23;;/h7-9,11-15,17-18,30-31,36,39H,4-6,10,16,19-21H2,1-3H3,(H,37,40);2*1H/t30-,31+;;/m0../s1
